US04517199
Acetic anhydride (600 mL, 6.4 mol) and 90% formic acid (275 mL, 5.4 mol) are heated to reflux for 45 minutes and then cooled to 5° C. The N-(4-amino-3,5-dichlorophenyl)-trichloroacetamide (464 g., 1.44 mol) is added to the mixed anhydride solution and mechanically stirred for 20 hours at room temperature. Then the reaction mixture is poured onto ice (2 liters). When the stirred slurry reaches room temperature, it is collected by suction filtration and washed with water (1.5 liters) and dried to constant weight yielding 348.7 grams of N-(3,5-dichloro-4-formamidophenyl)-trichloroacetamide with a mass spectral analysis of m/e+· 348 for C9H5Cl5N2O2.

reactant | Acetic anhydride | 6.4 mol, 600 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 5.4 mol, 275 mL | C(=O)O | CH2O2
reactant | N-(4-amino-3,5-dichlorophenyl)-trichloroacetamide | 1.44 mol, 464 g | NC1=C(C=C(C=C1Cl)NC(C(Cl)(Cl)Cl)=O)Cl | C8H5Cl5N2O
product | N-(3,5-dichloro-4-formamidophenyl)-trichloroacetamide | 348.7 grams | ClC=1C=C(C=C(C1NC=O)Cl)NC(C(Cl)(Cl)Cl)=O | C9H5Cl5N2O2
